US09034880B2
Preparation of the title compound was carried out according to General Method 8. p-Tolylhydrazine hydrochloride (10 g, 63 mmol), 2-phenyl ethyl bromide (11.6 g, 63 mmol), triethyl amine (19.4 g, 189 mmol) and 2,2,2-trichloroethyl 4-oxopiperidine-1-carboxylate (452 mg, 2 mmol) were taken in ethanol (10 ml) at 90° C. for 3 h to obtain 200 mg of 2,2,2-trichloroethyl 3,4-dihydro-8-methyl-5-phenethyl-1H-pyrido[4,3-b]indole-2(5H)-carboxylate after purification on silica gel (230-400 mesh) chromatography eluting with methanol-dichloromethane gradient.

reactant | p-Tolylhydrazine hydrochloride | 63 mmol, 10 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | 2-phenyl ethyl bromide | 63 mmol, 11.6 g | C1(=CC=CC=C1)CCBr | C8H9Br
reactant | triethyl amine | 189 mmol, 19.4 g | C(C)N(CC)CC | C6H15N
reactant | 2,2,2-trichloroethyl 4-oxopiperidine-1-carboxylate | 2 mmol, 452 mg | O=C1CCN(CC1)C(=O)OCC(Cl)(Cl)Cl | C8H10Cl3NO3
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,2,2-trichloroethyl 3,4-dihydro-8-methyl-5-phenethyl-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 200 mg | CC1=CC=2C3=C(N(C2C=C1)CCC1=CC=CC=C1)CCN(C3)C(=O)OCC(Cl)(Cl)Cl | C23H23Cl3N2O2
